US04062965
a. Preparation of 1-n-hexadecyl-2-ethyl-3-n-octyl-imidazole bromide
0.5 mole of 1-n-hexadecyl-2-ethylimidazole and 0.6 mole of n-octyl bromide are dissolved in 250 ml of i-propanol and boiled with reflux for 5 hours. The solvent then is separated and the residue washed with ether.

reactant | 1-n-hexadecyl-2-ethylimidazole | 0.5 mole | C(CCCCCCCCCCCCCCC)N1C(=NC=C1)CC | C21H40N2
reactant | n-octyl bromide | 0.6 mole | C(CCCCCCC)Br | C8H17Br
solvent | i-propanol | 250 ml | C(C)(C)O | C3H8O
product | 1-n-hexadecyl-2-ethyl-3-n-octyl-imidazole bromide | [Br-].C(CCCCCCCCCCCCCCC)N1C(N(C=C1)CCCCCCCC)CC | InChI=1S/C29H58N2.BrH/c1-4-7-9-11-13-14-15-16-17-18-19-20-22-24-26-31-28-27-30(29(31)6-3)25-23-21-12-10-8-5-2;/h27-29H,4-26H2,1-3H3;1H/p-1
